US04788206
Preparation of [1-[3-(3-pyridinyl)propyl]-4-(3-pyridinyl) butYl]carbamic acid 1,1-dimethylethyl ester
As in Example 36, 8.8 g of alpha-[3-(3-pyridinyl)propyl]-3-pyridinepentanoic acid, when reacted with 9.1 g of diphenylphosphorylazide in 75 mL of t-butanol containing 4.1 mL of triethylamine furnished 11.1 g of product. Purification of the crude by HPLC (ethyl acetate-methanol; 13:1) yielded 5.5 g of 1-[3-(3-pyridinyl)propyl]-4-(3-pyridinyl)butyl]carbamic acid 1,1-dimethylethyl ester as an oil.

reactant | alpha-[3-(3-pyridinyl)propyl]-3-pyridinepentanoic acid | 8.8 g | N1=CC(=CC=C1)CCCC(C(=O)O)CCCC=1C=NC=CC1 | C18H22N2O2
reactant | diphenylphosphorylazide | 9.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 75 mL | C(C)(C)(C)O | C4H10O
product | [1-[3-(3-pyridinyl)propyl]-4-(3-pyridinyl) butYl]carbamic acid 1,1-dimethylethyl ester | 11.1 g | CC(C)(C)OC(NC(CCCC=1C=NC=CC1)CCCC=1C=NC=CC1)=O | C22H31N3O2
